US08258175B2
3-(4-Chlorophenyl)-3-hydroxy-2-phenethylisoindolin-1-one (250 mg, 0.687 mmol.) was reacted with thionyl chloride (0.055 mL, 0.756 mmol.) and a catalytic amount of DMF as for general procedure B, and the solvent removed to give a colourless oil of the crude 3-chloro-3-(4-chlorophenyl)-2-phenethylisoindolin-1-one (256 mg, 0.687 mmol., 100%).

reactant | 3-(4-Chlorophenyl)-3-hydroxy-2-phenethylisoindolin-1-one | 0.687 mmol, 250 mg | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CCC1=CC=CC=C1)O | C22H18ClNO2
reactant | thionyl chloride | 0.756 mmol, 0.055 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-chloro-3-(4-chlorophenyl)-2-phenethylisoindolin-1-one | 0.687 mmol, 256 mg, 100% | ClC1(N(C(C2=CC=CC=C12)=O)CCC1=CC=CC=C1)C1=CC=C(C=C1)Cl | C22H17Cl2NO
